* source PLETHYSMOGRAPH_AMP_BLOCKS_FILTER_TS
V_V1         N06746 0   PWL   
+ REPEAT FOREVER  
+ FILE "C:\Users\N\Documents\GitHub\Plethysmograph\TEK0003formatted_crop.csv" 
+ ENDREPEAT
E_GAIN1         N07596 0 VALUE {1E1 * V(N06754)}
R_R4         OUT 5V  1k TC=0,0 
R_R16         N06610 N09169  10k TC=0,0 
C_C6         0 N06610  10uF  TC=0,0 
X_U2         N07605 N06610 VCC 0 OUT LM293/5_1/TI
R_R5         N07125 VCC  82k TC=0,0 
V_V2         VCC 0 9Vdc
C_C5         0 N07125  100nF  TC=0,0 
X_U3A         N07125 5V VCC 0 5V TL074/301/TI
R_R6         0 N07125  100k TC=0,0 
C_C2         0 VCC  100nF  TC=0,0 
R_R17         N07605 N07596  10k TC=0,0 
R_R20         OUT N07605  220k TC=0,0 
C_C7         N09169 N07596  2.2uF  TC=0,0 
C_C4         N06754 N29302 C_C4 50u  TC=0,0 
.model        C_C4 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
X_U1B         N29226 N29302 VCC 0 N06754 LM324
C_C3         N29302 N292641 C_C3 50u  TC=0,0 
.model        C_C3 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
R_R21         N29302 N06754 R_R21 910 TC=0,0 
.model        R_R21 RES R=1 DEV=5% TC1=0 TC2=0
R_R3         N292641 N06746 R_R3 6.37k TC=0,0 
.model        R_R3 RES R=1 DEV=5% TC1=0 TC2=0
R_R9         5V N29226  10k TC=0,0 
