* source PLETHYSMOGRAPH_AMP_BLOCKS_FILTER_TS
V_V1         N06746 0   PWL   
+ REPEAT FOREVER  
+ FILE "C:\Users\N\Documents\GitHub\Plethysmograph\TEK0003formatted_crop.csv" 
+ ENDREPEAT
E_GAIN1         N07596 0 VALUE {1E1 * V(N06754)}
R_R4         OUT 5V  1k TC=0,0 
R_R16         N06610 N09169  10k TC=0,0 
C_C6         0 N06610  10uF  TC=0,0 
X_U2         N07605 N06610 VCC 0 OUT LM293/5_1/TI
R_R5         N07125 VCC  82k TC=0,0 
V_V2         VCC 0 9Vdc
C_C5         0 N07125  100nF  TC=0,0 
X_U3A         N07125 5V VCC 0 5V TL074/301/TI
R_R6         0 N07125  100k TC=0,0 
C_C2         0 VCC  100nF  TC=0,0 
R_R17         N07605 N07596  10k TC=0,0 
R_R20         OUT N07605  220k TC=0,0 
C_C7         N09169 N07596  2.2uF  TC=0,0 
C_C4         N06754 N29302 C_C4 50u  TC=0,0 
.model        C_C4 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
X_U1B         N29226 N29302 VCC 0 N06754 LM324
C_C3         N29302 N292641 C_C3 50u  TC=0,0 
.model        C_C3 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
R_R21         N29302 N06754 R_R21 910 TC=0,0 
.model        R_R21 RES R=1 DEV=5% TC1=0 TC2=0
R_R3         N292641 N06746 R_R3 6.37k TC=0,0 
.model        R_R3 RES R=1 DEV=5% TC1=0 TC2=0
R_R9         5V N29226  10k TC=0,0 
R_R32         N39089 N39083  10k TC=0,0 
E_GAIN2         N39083 0 VALUE {1E1 * V(N38531)}
C_C9         0 N38365 C_C9 50n  TC=0,0 
.model        C_C9 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
R_R33         OUT N39089  220k TC=0,0 
X_U7         N39089 N39003 VCC 0 OUT LM293/5_1/TI
C_C11         0 N38607 C_C11 50n  TC=0,0 
.model        C_C11 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
C_C8         N38293 N38289 C_C8 50u  TC=0,0 
.model        C_C8 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
R_R26         0 N38727 R_R26 330 TC=0,0 
.model        R_R26 RES R=1 DEV=5% TC1=0 TC2=0
R_R23         N38289 N38293 R_R23 910 TC=0,0 
.model        R_R23 RES R=1 DEV=5% TC1=0 TC2=0
C_C15         0 N39003  10uF  TC=0,0 
C_C12         N38653 N38727 C_C12 0.001  TC=0,0 
.model        C_C12 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
R_R31         N39003 N39169  10k TC=0,0 
C_C10         N38531 N38535 C_C10 50u  TC=0,0 
.model        C_C10 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
X_U5C         N38727 N38713 VCC 0 N38713 LM324
R_R25         N38607 N38293 R_R25 6.37k TC=0,0 
.model        R_R25 RES R=1 DEV=5% TC1=0 TC2=0
R_R22         N38365 N38713 R_R22 6.37k TC=0,0 
.model        R_R22 RES R=1 DEV=5% TC1=0 TC2=0
R_R24         N38365 N38289 R_R24 800 TC=0,0 
.model        R_R24 RES R=1 DEV=5% TC1=0 TC2=0
R_R30         OUT 5V  1k TC=0,0 
R_R8         N38607 N38535 R_R8 800 TC=0,0 
.model        R_R8 RES R=1 DEV=5% TC1=0 TC2=0
R_R10         N38823 5V R_R10 1k TC=0,0 
.model        R_R10 RES R=1 DEV=5% TC1=0 TC2=0
R_R11         N38859 5V R_R11 1k TC=0,0 
.model        R_R11 RES R=1 DEV=5% TC1=0 TC2=0
C_C16         N39169 N39083  2.2uF  TC=0,0 
V_V3         N38653 0   PWL   
+ REPEAT FOREVER  
+ FILE "C:\Users\N\Documents\GitHub\Plethysmograph\TEK0003formatted_crop.csv" 
+ ENDREPEAT
X_U5B         N38859 N38535 VCC V- N38531 LM324
X_U4B         N38823 N38289 VCC 0 N38293 LM324
R_R7         N38535 N38531 R_R7 910 TC=0,0 
.model        R_R7 RES R=1 DEV=5% TC1=0 TC2=0
